US04210655
50 ml of a bimolar solution of n-butyl lithium in hexane is added dropwise within 30 minutes, at a reaction temperature of -5°, to a solution of 11.8 g of benzofuran in 100 ml of diethyl ether. The solution is then stirred for a further hour at 0°. There is thereupon made within 15 minutes a dropwise addition of a solution of 1,3-dimethyl-4-piperidone in 50 ml of abs. diethyl ether. The reaction temperature is maintained at 0° by external cooling. The reaction solution is subsequently stirred for a further 15 hours at room temperature. It is then poured, with stirring, onto 200 g of ice, and the aqueous phase extracted three times with 500 ml of ethyl acetate each time. The combined organic extracts are dried over sodium sulphate, filtered, and concentrated by evaporation. The residue is dissolved in 500 ml of 2 N hydrochloric acid and the acid solution washed with ether. The aqueous solution is thereupon adjusted by addition of 10% sodium hydroxide solution to pH 12, and extracted with 1 liter of chloroform. The chloroform solution is dried with sodium sulphate, filtered off under suction, and concentrated by evaporation to obtain 4-(2-benzofuranyl)-1,3-dimethyl-4-piperidinol, which melts at 128°-130° after recrystallisation from hexane.

reactant | n-butyl lithium | C(CCC)[Li]
reactant | benzofuran | 11.8 g | O1C=CC2=C1C=CC=C2 | C8H6O
reactant | 1,3-dimethyl-4-piperidone | CN1CC(C(CC1)=O)C | C7H13NO
solvent | hexane | CCCCCC | C6H14
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
product | 4-(2-benzofuranyl)-1,3-dimethyl-4-piperidinol | O1C(=CC2=C1C=CC=C2)C2(C(CN(CC2)C)C)O | C15H19NO2
